*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACT45B-101-2P (Common Mode Filter)
* Property: Lc=100uH at 100kHz
* Size(LxWxT): 4.5x3.2x2.8mm, 0.177x0.126x0.11inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACT45B_101_2P_s n1 n2 n3 n4
C11 11 41 9.00000000E-14
C12 21 31 9.00000000E-14
C21 13 14 6.00000000E-11
C22 23 24 6.00000000E-11
C23 33 34 6.00000000E-11
C24 43 44 6.00000000E-11
C31 14 24 4.00000000E-12
C32 34 44 4.00000000E-12
K11 L11 L12 9.99140000E-01
K12 L13 L14 9.99140000E-01
K21 L21 L22 9.98930000E-01
K22 L23 L24 9.98930000E-01
K31 L31 L32 9.99140000E-01
K41 L41 L42 9.99140000E-01
K51 L51 L52 9.99999999E-01
L11 11 12 1.05000000E-05
L12 21 22 1.05000000E-05
L13 31 32 1.05000000E-05
L14 41 42 1.05000000E-05
L21 12 14 2.50000000E-05
L22 22 24 2.50000000E-05
L23 32 34 2.50000000E-05
L24 42 44 2.50000000E-05
L31 14 15 2.10000000E-05
L32 24 25 2.10000000E-05
L41 15 45 2.10000000E-05
L42 25 35 2.10000000E-05
L51 44 45 4.70000000E-05
L52 34 35 4.70000000E-05
R11 11 12 1.37500000E+01
R12 21 22 1.37500000E+01
R13 31 32 1.37500000E+01
R14 41 42 1.37500000E+01
R21 12 13 2.60000000E+03
R22 22 23 2.60000000E+03
R23 32 33 2.60000000E+03
R24 42 43 2.60000000E+03
R31 14 15 1.10000000E+00
R32 24 25 1.10000000E+00
R41 15 45 5.50000000E+00
R42 25 35 5.50000000E+00
R51 44 45 3.20000000E+04
R52 34 35 3.20000000E+04
R61 n1 11 7.30000000E-01
R62 n2 21 7.30000000E-01
R63 n3 31 7.30000000E-01
R64 n4 41 7.30000000E-01
R71 11 21 1.00000000E+10
R72 31 41 1.00000000E+10
R81 n1 n4 1.00000000E+09
R82 n2 n3 1.00000000E+09
.ENDS ACT45B_101_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACT45B-110-2P (Common Mode Filter)
* Property: Lc=11uH at 100kHz
* Size(LxWxT): 4.5x3.2x2.8mm, 0.177x0.126x0.11inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACT45B_110_2P_s n1 n2 n3 n4
C11 11 41 9.00000000E-14
C12 21 31 9.00000000E-14
C21 13 14 1.80000000E-10
C22 23 24 1.80000000E-10
C23 33 34 1.80000000E-10
C24 43 44 1.80000000E-10
C31 14 24 5.00000000E-12
C32 34 44 5.00000000E-12
K11 L11 L12 9.95960000E-01
K12 L13 L14 9.95960000E-01
K21 L21 L22 9.98380000E-01
K22 L23 L24 9.98380000E-01
K31 L31 L32 9.95960000E-01
K41 L41 L42 9.95960000E-01
K51 L51 L52 9.99999999E-01
L11 11 12 4.70000000E-07
L12 21 22 4.70000000E-07
L13 31 32 4.70000000E-07
L14 41 42 4.70000000E-07
L21 12 14 4.50000000E-06
L22 22 24 4.50000000E-06
L23 32 34 4.50000000E-06
L24 42 44 4.50000000E-06
L31 14 15 9.40000000E-07
L32 24 25 9.40000000E-07
L41 15 45 9.40000000E-07
L42 25 35 9.40000000E-07
L51 44 45 4.98000000E-06
L52 34 35 4.98000000E-06
R11 11 12 1.00000000E+01
R12 21 22 1.00000000E+01
R13 31 32 1.00000000E+01
R14 41 42 1.00000000E+01
R21 12 13 7.80000000E+02
R22 22 23 7.80000000E+02
R23 32 33 7.80000000E+02
R24 42 43 7.80000000E+02
R31 14 15 8.00000000E-01
R32 24 25 8.00000000E-01
R41 15 45 4.00000000E+00
R42 25 35 4.00000000E+00
R51 44 45 7.50000000E+03
R52 34 35 7.50000000E+03
R61 n1 11 1.80000000E-01
R62 n2 21 1.80000000E-01
R63 n3 31 1.80000000E-01
R64 n4 41 1.80000000E-01
R71 11 21 1.00000000E+10
R72 31 41 1.00000000E+10
R81 n1 n4 1.00000000E+09
R82 n2 n3 1.00000000E+09
.ENDS ACT45B_110_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACT45B-220-2P (Common Mode Filter)
* Property: Lc=22uH at 100kHz
* Size(LxWxT): 4.5x3.2x2.8mm, 0.177x0.126x0.11inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACT45B_220_2P_s n1 n2 n3 n4
C11 11 41 8.00000000E-14
C12 21 31 8.00000000E-14
C21 13 14 1.20000000E-10
C22 23 24 1.20000000E-10
C23 33 34 1.20000000E-10
C24 43 44 1.20000000E-10
C31 14 24 5.00000000E-12
C32 34 44 5.00000000E-12
K11 L11 L12 9.98000000E-01
K12 L13 L14 9.98000000E-01
K21 L21 L22 9.98680000E-01
K22 L23 L24 9.98680000E-01
K31 L31 L32 9.98000000E-01
K41 L41 L42 9.98000000E-01
K51 L51 L52 9.99999999E-01
L11 11 12 1.00000000E-06
L12 21 22 1.00000000E-06
L13 31 32 1.00000000E-06
L14 41 42 1.00000000E-06
L21 12 14 6.80000000E-06
L22 22 24 6.80000000E-06
L23 32 34 6.80000000E-06
L24 42 44 6.80000000E-06
L31 14 15 2.00000000E-06
L32 24 25 2.00000000E-06
L41 15 45 2.00000000E-06
L42 25 35 2.00000000E-06
L51 44 45 8.90000000E-06
L52 34 35 8.90000000E-06
R11 11 12 9.50000000E+00
R12 21 22 9.50000000E+00
R13 31 32 9.50000000E+00
R14 41 42 9.50000000E+00
R21 12 13 1.00000000E+03
R22 22 23 1.00000000E+03
R23 32 33 1.00000000E+03
R24 42 43 1.00000000E+03
R31 14 15 7.60000000E-01
R32 24 25 7.60000000E-01
R41 15 45 3.80000000E+00
R42 25 35 3.80000000E+00
R51 44 45 9.50000000E+03
R52 34 35 9.50000000E+03
R61 n1 11 3.40000000E-01
R62 n2 21 3.40000000E-01
R63 n3 31 3.40000000E-01
R64 n4 41 3.40000000E-01
R71 11 21 1.00000000E+10
R72 31 41 1.00000000E+10
R81 n1 n4 1.00000000E+09
R82 n2 n3 1.00000000E+09
.ENDS ACT45B_220_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACT45B-510-2P (Common Mode Filter)
* Property: Lc=51uH at 100kHz
* Size(LxWxT): 4.5x3.2x2.8mm, 0.177x0.126x0.11inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACT45B_510_2P_s n1 n2 n3 n4
C11 11 41 1.00000000E-13
C12 21 31 1.00000000E-13
C21 13 14 6.00000000E-11
C22 23 24 6.00000000E-11
C23 33 34 6.00000000E-11
C24 43 44 6.00000000E-11
C31 14 24 6.80000000E-12
C32 34 44 6.80000000E-12
K11 L11 L12 9.97880000E-01
K12 L13 L14 9.97880000E-01
K21 L21 L22 9.99030000E-01
K22 L23 L24 9.99030000E-01
K31 L31 L32 9.97880000E-01
K41 L41 L42 9.97880000E-01
K51 L51 L52 9.99999999E-01
L11 11 12 3.30000000E-06
L12 21 22 3.30000000E-06
L13 31 32 3.30000000E-06
L14 41 42 3.30000000E-06
L21 12 14 1.70000000E-05
L22 22 24 1.70000000E-05
L23 32 34 1.70000000E-05
L24 42 44 1.70000000E-05
L31 14 15 6.60000000E-06
L32 24 25 6.60000000E-06
L41 15 45 6.60000000E-06
L42 25 35 6.60000000E-06
L51 44 45 2.92000000E-05
L52 34 35 2.92000000E-05
R11 11 12 9.50000000E+00
R12 21 22 9.50000000E+00
R13 31 32 9.50000000E+00
R14 41 42 9.50000000E+00
R21 12 13 2.20000000E+03
R22 22 23 2.20000000E+03
R23 32 33 2.20000000E+03
R24 42 43 2.20000000E+03
R31 14 15 7.60000000E-01
R32 24 25 7.60000000E-01
R41 15 45 3.80000000E+00
R42 25 35 3.80000000E+00
R51 44 45 2.50000000E+04
R52 34 35 2.50000000E+04
R61 n1 11 3.90000000E-01
R62 n2 21 3.90000000E-01
R63 n3 31 3.90000000E-01
R64 n4 41 3.90000000E-01
R71 11 21 1.00000000E+10
R72 31 41 1.00000000E+10
R81 n1 n4 1.00000000E+09
R82 n2 n3 1.00000000E+09
.ENDS ACT45B_510_2P_s
*----------------------------------------------------------------------
*----------------------------------------------------------------------
* SPICE Netlist Generated by TDK Corporation
* Copyright(C) 2015 TDK Corporation.
* All Rights Reserved.
*----------------------------------------------------------------------
* TDK P/N: ACT45R-101-2P (Common Mode Filter)
* Property: Lc=100uH at 100kHz
* Size(LxWxT): 4.5x3.2x2.8mm, 0.177x0.126x0.11inches
* Model Type: Simple Model
* Model Generated on June 29, 2015
*----------------------------------------------------------------------
* Terms and conditions regarding TDK Simulation Models:
* 1)This simulation model is being provided solely for informational
*   purposes. Please refer to the specifications of the products in
*   terms of detailed characteristics of such products.
* 2)In no event shall TDK Corporation of any of its subsidiaries be
*   liable for any loss or damage arising, directly or indirectly,
*   from any information contained in this simulation model, including,
*   but not limited to loss or damages arising from any inaccuracies,
*   omissions or errors in connection with such information.
* 3)Any and all copyrights on this simulation model are owned by
*   TDK Corporation.  Duplication or redistribution of this simulation
*   model without prior written permission from TDK Corporation
*   is prohibited.
* 4)This simulation model is subject to any modification or change
*   without any prior notice.
* 5)Neither TDK Corporation nor any of its subsidiaries shall make any
*   warranty, express or implied, including but not limited to the
*   correctness, implied warranties of merchantability and fitness for
*   a particular purpose with respect to this simulation models.
* 6)The use of this simulation model shall be deemed to have consented
*   to the terms and conditions hereof.
*----------------------------------------------------------------------
* External Node Assignments:
*
*  n1 ---@@@--- n4
*       ===
*  n2 ---@@@--- n3
*
*----------------------------------------------------------------------
* Applicable Conditions:
*   Temperature = 25 degC
*   DC Bias Current = 0 A
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT ACT45R_101_2P_s n1 n2 n3 n4
C11 11 12 1.00000000E-14
C12 21 22 1.00000000E-14
C13 31 32 1.00000000E-14
C14 41 42 1.00000000E-14
C21 12 42 7.36175857E-14
C22 22 32 7.36175857E-14
C41 12 22 1.17036290E-11
C42 32 42 1.17036290E-11
K11 L21 L22 9.99999999E-01
L11 11 12 3.17155381E-08
L12 21 22 3.17155381E-08
L13 31 32 3.17155381E-08
L14 41 42 3.17155381E-08
L21 12 42 9.99683325E-05
L22 22 32 9.99683325E-05
R11 11 12 2.89212047E+01
R12 21 22 2.89212047E+01
R13 31 32 2.89212047E+01
R14 41 42 2.89212047E+01
R21 12 42 5.00856695E+04
R22 22 32 5.00856695E+04
R31 n1 11 5.25000000E-01
R32 n2 21 5.25000000E-01
R33 n3 31 5.25000000E-01
R34 n4 41 5.25000000E-01
R41 12 22 1.00000000E+09
R42 32 42 1.00000000E+09
R51 n1 n4 1.00000000E+09
R52 n2 n3 1.00000000E+09
.ENDS ACT45R_101_2P_s
*----------------------------------------------------------------------
